Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysuria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with history of CAD status 
post stent, BPH who presents with acute urinary retention and 
positive blood cultures. 

Per ED HPI: presenting with urinary retention and blood culture 
which grew out gram-negative rods on ___. Patient states 
that he developed pain with urination on ___. He also 
endorses weak, short stream. Patient states that he went to 
urgent care, was diagnosed with a UTI, and started on Bactrim. 
Patient states he has been taking Bactrim b.i.d. for the past 3 
days. States no UOP since 5pm last night. Some suprapubic 
discomfort. PCP sent patient to urologist this am, who after 
seeing positive blood culture, immediately sent patient in to 
___. Patient endorses intermittent chills and body aches.

He reported in the ED that he last urinated at 5 ___ on ___.

In the ED, initial vitals were:  99.5 101 137/79 18 100% RA 
Exam notable for no CVAT and non-tender prostate.
Labs notable for WBC 11.5, bicarb 20, lactate 3.6, UA with few 
bact, 4 WBC
Patient was given 2 L NS, 1g Tylenol, and 1 g Ceftriaxone
Foley was placed. 
Decision was made to admit for bacteremia and sepsis due to UTI.
Vitals notable for 98.1  76  119/71  19  100% RA 
 
On the floor,  
The patient reports that he had been having symptoms of urinary 
retention and pain with urination starting on ___, 
when he had trouble urinating and subjective chills. He 
initially called PCP who started him on Bactrim. He initially 
felt better, but by end of day ___ he again felt chills and felt 
"worse" than previously. He then went to urgent care on ___, 
who checked a Urine culture, blood culture at that time. He went 
to his PC office on ___ AM and was ultimately sent to Urology 
with Dr. ___, at which point he was called with the results of 
his blood test (which ultimately grew E. Coli in the urine 
(pansensitive) as well as GNR in the blood.) He states that he 
does have a history of BPH for which he is following with Dr. 
___, and states that he does occasionally have 
difficulty starting his stream but denies being started on any 
medications in the past. He reports some suprapubic discomfort 
which has resolved with foley. Patient endorses intermittent 
chills and body aches. He denies recent 
cough/nausea/vomiting/diarrhea, but did state he had some 
generalized body aches and back pain. He denies hematuria or 
hematochezia.

 
Past Medical History:
CAD s/p stenting in ___
Psoriasis 
Mycosis fungoides 
Hypertension, essential 
Colonic adenoma 
CAD (coronary artery disease) 
Hypercholesteremia 
Rheumatoid factor positive 
Elevated PSA 
Monoclonal B-cell lymphocytosis
BPH-not currently on medication 

 
Social History:
___
Family History:
Mother--HTN, DM2
Father--Lung cancer
5 sisters and brothers, only 1 sister with major health issues 
(stent placed)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
==========================
VS: 98.5 PO 107 / 67 80 18 100 ra  
Gen:  well nourished M, lying comfortably in bed with wife at 
bedside, appears to be in no acute distress
HEENT:  NC/AT, MMM, no LAD appreciated, neck supple
CV: RRR, no murmurs, rubs or gallops noted 
Pulm:  LCTAB, no crackles, rales or rhonchi noted
Abd: soft, nontender, nondistended, NABS; patient denies 
suprapubic tenderness. No CVA tenderness. 
GU: deferred, foley in place 
Ext: warm and well perfused, no lower extremity edema noted  
Skin: no pallor noted, no lesions or ecchymoses noted grossly on 
skin of arms/legs/back 
Neuro:  CNs II-XII intact, tongue midline, EOMI, following 
commands. Strength ___ in UE and ___ bilaterally. Gait deferred.
Psych: mood and affect appropriate, responding to questions 
appropriately 

DISCHARGE PHYSICAL EXAM
========================
VS: 98.3 PO 135 / 81 R Lying 72 18 100 RA 
Gen:  well nourished M, sitting upright in bed, in NAD
HEENT:  NC/AT, neck supple
CV: RRR, no murmurs, rubs or gallops noted 
Pulm:  LCTAB, no crackles, rales or rhonchi noted
Abd: soft, nontender, nondistended, NABS; no suprapubic 
tenderness no CVA tenderness
Ext: warm and well perfused, no lower extremity edema noted  
Neuro:  CNs II-XII intact grossly, moving all extremities
Psych: mood and affect appropriate, responding to questions 
appropriately   
 
Pertinent Results:
PERTINENT LABS
===============
___ 07:30AM BLOOD WBC-6.2 RBC-4.30* Hgb-12.9* Hct-39.1* 
MCV-91 MCH-30.0 MCHC-33.0 RDW-12.7 RDWSD-42.2 Plt ___
___ 06:15AM BLOOD WBC-6.1 RBC-3.97* Hgb-12.1* Hct-35.9* 
MCV-90 MCH-30.5 MCHC-33.7 RDW-12.8 RDWSD-42.3 Plt ___
___ 11:13AM BLOOD WBC-11.5* RBC-4.92 Hgb-14.8 Hct-45.6 
MCV-93 MCH-30.1 MCHC-32.5 RDW-12.5 RDWSD-42.6 Plt ___
___ 07:30AM BLOOD Glucose-75 UreaN-15 Creat-0.9 Na-138 
K-4.2 Cl-100 HCO3-25 AnGap-17
___ 06:15AM BLOOD Glucose-86 UreaN-13 Creat-0.9 Na-137 
K-3.9 Cl-100 HCO3-23 AnGap-18
___ 11:13AM BLOOD Glucose-119* UreaN-16 Creat-1.1 Na-136 
K-3.9 Cl-97 HCO3-20* AnGap-23*
___ 07:30AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2
___ 06:15AM BLOOD Calcium-8.6 Phos-3.0 Mg-2.2
___ 11:23AM BLOOD Lactate-3.6*
___ 08:16AM BLOOD Lactate-1.3

PERTINENT MICRO
=================
BCx ___: GNR (Atrius)

UCx ___: (Atrius)
E. coli 
 >100,000 cfu/mL 
 AMPICILLIN SENSITIVE 
 CEFAZOLIN SENSITIVE 
 CEFOXITIN SENSITIVE 
 CEFTAZIDIME SENSITIVE 
 CEFTRIAXONE SENSITIVE 
 CEFUROXIME - ORAL SENSITIVE 
 CEFUROXIME- I.V. SENSITIVE 
 CIPROFLOXACIN SENSITIVE 
 GENTAMICIN SENSITIVE 
 LEVOFLOXACIN SENSITIVE 
 NITROFURANTOIN SENSITIVE 
 TETRACYCLINE SENSITIVE 
 TOBRAMYCIN SENSITIVE 
 TRIMETHOPRIM/SULFAMETHOXAZOLE SENSITIVE 

___ Urine Cx: no growth
___ Blood Cx: pending

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

PERTINENT IMAGING:
====================
NONE

LABS ON DISCHARGE
==================
___ 08:11AM BLOOD WBC-6.3 RBC-4.77 Hgb-14.2 Hct-43.7 MCV-92 
MCH-29.8 MCHC-32.5 RDW-12.3 RDWSD-41.4 Plt ___
___ 08:11AM BLOOD Plt ___
___ 08:11AM BLOOD Glucose-83 UreaN-14 Creat-0.8 Na-137 
K-3.9 Cl-98 HCO3-25 AnGap-18
___ 08:11AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.___ male with history of CAD status post stent, BPH who 
presents with acute urinary retention and positive blood 
cultures. Urine cx at At___ from ___ with pan-sensitive E. 
coli, blood cx ___ with GNR, unspeciated at discharge. The pt 
remained afebrile and with stable vital signs throughout 
admission. The patient was treated with ceftriaxone initially 
and switched to ciprofloxacin, and was started on tamsulosin. He 
initially failed a voiding trial with significant PVRs but was 
also started on finasteride and on the evening of ___ passed a 
subsequent voiding trial. Mr. ___ stated his symptoms 
improved and he was discharged from ___ with stable vital 
signs and improved condition on ___. 

ACTIVE ISSUES
#Sepsis due to Urinary Tract Infection: patient with + urine 
cultures for E coli, blood cultures for GNR at At___. He had 
initially been started on Bactrim as an outpatient. ___ urine 
cx negative, blood cultures pending. Patient was initially 
started on ceftriaxone as inpatient, which was switched to 
Ciprofloxacin 500 mg PO q12. 

#Urinary Retention: patient with known history of BPH, not on 
prior treatment per outpatient Urologist. Urinary fullness 
resolved with foley catheter placement Failed voiding trial with 
PVR of 900 night of ___, failed again on ___. Foley was 
replaced, with plan for voiding trial on evening of ___. Started 
tamsulosin and finasteride. Patient passed void trial on evening 
of ___ and retention symptoms improved on day of discharge 
___.

#Elevated lactate: unclear etiology at this time. Lactate 
downtrended to 1.3  on ___ (from 3.6 on admission).

#Anemia: slight decrease in Hgb to 12.1 ___ -> 12.9 ___. No 
active signs of bleeding; possibly related to UTI or trauma from 
foley. Monitored as inpatient. Hgb up to 14.2 on day of 
discharge.

#Diarrhea: concern for C. difficile given antibiotics use as 
inpatient. C. difficile stool culture negative. Patient 
prescribed loperamide as inpatient.

CHRONIC ISSUES: 
==========================
#CAD s/p Stent placement (___): continue home Aspirin 81 mg PO 
DAILY,  Atenolol 100 mg PO DAILY; home Lisinopril held as 
inpatient with plan to restart when able to void appropriately. 

#HL: continued home Pravastatin 80 mg PO QPM
 
#HTN: continued home amLODIPine 5 mg PO DAILY 

FULL CODE
Name of health care ___
Relationship:Wife
Phone ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 80 mg PO QPM 
2. Sulfameth/Trimethoprim DS 1 TAB PO BID 
3. amLODIPine 5 mg PO DAILY 
4. Atenolol 100 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*23 Tablet Refills:*0 
2.  Finasteride 5 mg PO DAILY 
RX *finasteride 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  LOPERamide 2 mg PO QID:PRN Diarrhea 
You may purchase this medication over the counter. 
RX *loperamide 2 mg 1 capsule by mouth four times a day Disp 
#*20 Capsule Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atenolol 100 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Pravastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Urosepsis
Urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure treating you at ___!

Why was I admitted to the hospital?
You were admitted because you were unable to urinate and because 
your doctors ___ that there was bacteria growing in your blood 
and in your urine.

What was done for me while I was here?
We gave you antibiotics to treat the infection in your blood and 
in your urine. We also placed a catheter in the bladder because 
you were having trouble urinating, and started you on two 
medications that will make urinating easier.

What should I do for the next few days at home?
Please follow-up with your urologist Dr. ___ in order to do 
further diagnostic tests for your urine retention.
Please continue to take your antibiotics as prescribed, as well 
as the new medications for urinary retention. You will have to 
take the antibiotics until ___.

It was a pleasure taking care of you at ___ and we wish you 
all the best.
Sincerely, 
Your ___ Medicine Team
 
Followup Instructions:
___